US06046220
4-[3-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)propa-1,2-dienyl]benzoic acid.
6.02 g (16 mmol) of ethyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate, 5 ml of methanol, 5 ml of THF and 50 ml of heptane are introduced into a round-bottomed flask. 850 mg of sodium hydroxide are added and the mixture is refluxed for one hour. The reaction medium is poured into water, adjusted to pH 1 with hydrochloric acid and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is triturated from ethyl alcohol, filtered and dried. 1.37 g (24.5%) of 4-[3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)propa-1,2-dienyl]benzoic acid are collected, with a melting point of 227-8° C.

reactant | ethyl 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoate | 16 mmol, 6.02 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC#CC1=CC=C(C(=O)OCC)C=C1)C | C26H30O2
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 850 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | heptane | 50 ml | CCCCCCC | C7H16
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-[3-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydro-2-naphthyl)propa-1,2-dienyl]benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=C=CC1=CC=C(C(=O)O)C=C1)C | C24H26O2
